US08809331B2
A mixture of (4-amino-5-methoxy-2-(trifluoromethyl)phenyl)(morpholino)methanone (94 mg, 0.31 mmol), 2,5-dichloro-N-methylpyrimidin-4-amine (55 mg, 0.31 mmol) and para-toluene sulfonic acid (59 mg, 0.31 mmol) in dioxane (4 mL) was heated to 100° C. for 36 h. Saturated aqueous sodium bicarbonate solution (10 mL) and DCM (10 mL) were added and the organic phase was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification of the residue via silica gel column chromatography (0-10% EtOAc in iso-hexane) gave (4-(5-chloro-4-(methylamino)pyrimidin-2-ylamino)-5-methoxy-2-(trifluoromethyl)phenyl)(morpholino)methanone (11 mg, 8%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M+H]+=446 at 3.60 min. 1H NMR (400 MHz, CDCl3): δ 8.97 (s, 1H), 8.40 (br s, 1H), 7.90 (s, 1H), 6.76 (s, 1H), 5.59 (q, J=4.9 Hz, 1H), 3.96 (s, 3H), 3.95-3.87 (m, 1H), 3.82-3.69 (m, 3H), 3.62-3.56 (m, 2H), 3.26-3.20 (m, 2H), 3.13 (d, J=4.9 Hz, 3H).

reactant | (4-amino-5-methoxy-2-(trifluoromethyl)phenyl)(morpholino)methanone | 0.31 mmol, 94 mg | NC1=CC(=C(C=C1OC)C(=O)N1CCOCC1)C(F)(F)F | C13H15F3N2O3
reactant | 2,5-dichloro-N-methylpyrimidin-4-amine | 0.31 mmol, 55 mg | ClC1=NC=C(C(=N1)NC)Cl | C5H5Cl2N3
reactant | para-toluene sulfonic acid | 0.31 mmol, 59 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (4-(5-chloro-4-(methylamino)pyrimidin-2-ylamino)-5-methoxy-2-(trifluoromethyl)phenyl)(morpholino)methanone | 11 mg, 8% | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1OC)C(=O)N1CCOCC1)C(F)(F)F)NC | C18H19ClF3N5O3
